US04081537
As described in Example 22, 2.4 g. of 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one in 60 ml. of methanol and 2 ml. of water is reacted with 1.0 g. of hydroxylamine hydrochloride and 1.0 g. of sodium bicarbonate. After 1.5 hours, the reaction mixture is worked up analogously to Example 22. After the crude product has been chromatographed on silica gel with acetone-hexane, 760 mg. of 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one oxime is obtained.

reactant | 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#C | C23H28O3
reactant | methanol | CO | CH4O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one oxime | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=NO)C#C | C23H29NO3
